US03971819
B. 3-amino-4-phenylsulphonyl-5-sulphamyl-benzoic acid
A suspension of 3-nitro-4-phenylsulphonyl-5-sulphamyl-benzoic acid (6 g) in water (300 ml) was hydrogenated at room temperature and 1.1 atmospheres hydrogen pressure after addition of Pd-on-carbon catalyst (0.3 g catalyst containing 10% Pd). After the hydrogen uptake had become negligible, the reaction mixture was neutralized by addition of 2N sodium hydroxde, and the catalyst was removed from the resulting suspension by filtration. The filtrate was adjusted to a pH of 2.5 by addition of 4N hydrochloric acid, and the precipitated 3-amino-4-phenylsulphonyl-5-sulphamyl-benzoic acid was collected by suction. After recrystallization from aqueous ethanol, the acid had a melting point of 278°C (decomp.).

reactant | 3-nitro-4-phenylsulphonyl-5-sulphamyl-benzoic acid | 6 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1S(=O)(=O)C1=CC=CC=C1)S(N)(=O)=O | C13H10N2O8S2
reactant | hydrogen | [H][H] | H2
reactant | sodium | 2N | [Na] | Na
solvent | water | 300 ml | O | H2O
product | 3-amino-4-phenylsulphonyl-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1S(=O)(=O)C1=CC=CC=C1)S(N)(=O)=O | C13H12N2O6S2
